US07612114B2
6-{2-{[4-(2-Diethylaminoethoxy)benzyl]ethylamino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 4-(2-diethylaminoethoxy)-N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]benzamide according to an analogous synthetic method to Example 337, [4-(2-diethylaminoethoxy)benzyl]ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (149 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (159 mg).

reactant | 4-(2-diethylaminoethoxy)-N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]benzamide | C(C)N(CCOC1=CC=C(C(=O)N(C2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2)OC)CC)C=C1)CC | C33H42N2O4
reactant | [4-(2-diethylaminoethoxy)benzyl]ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 149 mg | C(C)N(CCOC1=CC=C(CN(C2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2)OC)CC)C=C1)CC | C33H44N2O3
product | 6-{2-{[4-(2-Diethylaminoethoxy)benzyl]ethylamino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 159 mg | C(C)N(CCOC1=CC=C(CCCNC2=C(C=CC(=C2)O)C2CC=3C=CC(=CC3CC2)O)C=C1)CC | C31H40N2O3
